US07300939B2
939 mg (3.0 mmol) of tert-butyl 4-(5-carboxythiazol-2-yl)piperazine-1-carboxylate [Precursor BBB61] were dissolved in DMF (15 ml) together with 534 mg (3.3 mmol) of CDI and the solution was stirred at RT 4 h. Subsequently, 243 mg (3.3 mmol) of N-hydroxyacetamidine were added and the mixture was stirred at 120° C. a further 4 h. The reaction solution was then poured onto water and the resulting precipitate was filtered off and washed with water. By means of CC (DCE/ethanol mixture) of the residue, 220 mg (0.63 mmol, 21%) of tert-butyl 4-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)-thiazol-2-yl]piperazine-1-carboxylate were obtained.

reactant | tert-butyl 4-(5-carboxythiazol-2-yl)piperazine-1-carboxylate | 3.0 mmol, 939 mg | C(=O)(O)C1=CN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19N3O4S
reactant | CDI | 3.3 mmol, 534 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-hydroxyacetamidine | 3.3 mmol, 243 mg | ONC(C)=N | C2H6N2O
reactant | DCE ethanol | ClCCCl.C(C)O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)-thiazol-2-yl]piperazine-1-carboxylate | 0.63 mmol, 220 mg, 21% | CC1=NOC(=N1)C1=CN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N5O3S
